US08530648B2
c) 2-(3-(chloromethyl)-4-methylphenyl)-2H-1,2,3-triazole
To a stirred solution of (2-methyl-5-(2H-1,2,3-triazol-2-yl)phenyl)methanol (100 mg, 0.53 mmol) in dichloromethane (5 mL), thionyl chloride (155 mg, 1.3 mmol) was added dropwise at 0° C. and stirred for 1 h. Then the mixture was allowed to warm to rt and stirred overnight. The reaction mixture was concentrated under reduced pressure at rt and dried under high vacuum to yield the title compound (90 mg, 83%). The compound was directly used for the next step without further purification. [TLC Rf=0.66 (ethyl acetate/hexane 30:70)].

reactant | (2-methyl-5-(2H-1,2,3-triazol-2-yl)phenyl)methanol | 0.53 mmol, 100 mg | CC1=C(C=C(C=C1)N1N=CC=N1)CO | C10H11N3O
reactant | thionyl chloride | 1.3 mmol, 155 mg | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(3-(chloromethyl)-4-methylphenyl)-2H-1,2,3-triazole | 90 mg, 83% | ClCC=1C=C(C=CC1C)N1N=CC=N1 | C10H10ClN3
